US07851473B2
N-Pyridin-4-yl-4-(3-pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl pyridin-4-ylcarbamate (198 mg, 0.735 mmol), 1-(3-pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.809 mmol) and diisopropylethylamine (0.139 ml, 0.809 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 80° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with a mixed solution of ethyl acetate/tetrahydrofuran (1:1). The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=9:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 62.1 mg (23.0%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl pyridin-4-ylcarbamate | 0.735 mmol, 198 mg | N1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-(3-pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine | 0.809 mmol, 200 mg | N1=C(C=CC=C1)C1=NSC(=N1)N1CCNCC1 | C11H13N5S
reactant | diisopropylethylamine | 0.809 mmol, 0.139 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-Pyridin-4-yl-4-(3-pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 62.1 mg, 23.0% | N1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=NC=CC=C1 | C17H17N7OS
